US04021539
N-(2-pyridyl-methyl)-glucamine
The product was made from D-glucose and 2-aminomethyl-pyridine comparable as in Example A. A resin-like, yellow product was obtained.

reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | 2-aminomethyl-pyridine | NCC1=NC=CC=C1 | C6H8N2
product | N-(2-pyridyl-methyl)-glucamine | N1=C(C=CC=C1)CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C12H20N2O5
